US08049009B2
Tenofovir disoproxil fumarate (100 gms, 0.1574 moles) is suspended in DM water (500 ml) and ethyl acetate (500 ml) at 25-35° C. and adjusted pH to neutral with saturated Sodium bicarbonate solution. Reaction mixture is settled and the separated ethyl acetate layer is evaporated under vacuum below 45° C. to get Tenofovir disoproxil as residue.

reactant | Tenofovir disoproxil fumarate | 0.1574 moles, 100 gms | C[C@H](CN1C=NC2=C1N=CN=C2N)OCP(=O)(OCOC(=O)OC(C)C)OCOC(=O)OC(C)C.C(=C/C(=O)O)\C(=O)O
reactant | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
reactant | Sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | water | 500 ml | O | H2O
product | Tenofovir disoproxil | C[C@H](CN1C=NC2=C1N=CN=C2N)OCP(=O)(OCOC(=O)OC(C)C)OCOC(=O)OC(C)C | C19H30N5O10P
